data/pmechdb/original/mc_train_fold0/raw/train.txt
[Li-:10](O)[OH+:11]C(C)C(C)C1=CC=CC=C1.[AlH3]>>[Li:10]O.CC(C1=CC=CC=C1)C(C)[OH:11].[AlH3] 10,11=11
CC(=O)[O-:10].C[N+:21]12CCCC1[CH2:20]2.[Cl-]>>CC(=O)[O:10][CH2:20]C1CCC[N:21]1C.[Cl-] 10=20;20,21=21
[H:20][NH+:21]1CCCC1C(=O)[O-].CC1(C(=O)CCC1=O)CCC(C)(N2CCCC2C(=O)[O-])[OH:10]>>[H:20][OH+:10]C(C)(CCC1(C(=O)CCC1=O)C)N2CCCC2C(=O)[O-].C1CC([NH:21]C1)C(=O)[O-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNC(CCC(=O)C)[OH:10]>>[H:20][OH+:10]C(CCC(=O)C)NCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][OH:21].CC(CC#N)[O-:10]>>[H:20][O:10]C(C)CC#N.[OH-:21] 10=20;20,21=21
CCOP(=[O:10])(OCC)OC1CC(CC=C1C)C(=C)C.C[Al:20](C)OC1=CC=CC=C1>>CCOP(=[O+:10][Al-:20](C)(C)OC1=CC=CC=C1)(OCC)OC2CC(CC=C2C)C(=C)C 10=20,
[CH2:20]([C:21]#N)[O-:10]>>[CH2:20]=[O:10].[C-:21]#N 10=20;20,21=21
CC[C:20]1(C([Br+:21]1)C)C.[Br-:10]>>CC[C:20](C)(C(C)[Br:21])[Br:10] 10=20;20,21=21
[H:20][O+:21](C)P(Br)(Br)Br.C[OH:10]>>[H:20][OH+:10]C.C[O:21]P(Br)(Br)Br 10=20;20,21=21
CC=C[CH:10](C)[OH2+:11]>>CC=C[CH+:10]C.[OH2:11] 10,11=11
[H:20][O:21]C(=O)C(C(CCCC)O)OC1=CC=CC=C1.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CCCCC(C(C(=O)[O-:21])OC1=CC=CC=C1)O 10=20;20,21=21
[B:20](Br)(Br)Br.CCCC1=CC(=C(C=C1)[O:10]C)C>>[B-:20]([O+:10](C)C1=C(C=C(C=C1)CCC)C)(Br)(Br)Br 10=20,
CO[CH:20]=[OH+:21].[SH2:10]>>CO[CH:20]([OH:21])[SH2+:10] 10=20;20,21=21
CCCCO[C:20]([N+]1=CC=C(C=C1)N(C)C)([O-:10])[Cl:21].CC1=C(C(=O)N(C2=NC(=NC=C12)NC3=NC=C(C=C3)N4CCNCC4)C5CCCC5)C(=O)C>>CCCCO[C:20](=[O:10])[N+]1=CC=C(C=C1)N(C)C.[Cl-:21].CC1=C(C(=O)N(C2=NC(=NC=C12)NC3=NC=C(C=C3)N4CCNCC4)C5CCCC5)C(=O)C 10=20;20,21=21
[H:20][O:21]CC.CC12CCC(=O)C(C1(CCC2=O)[O-:10])CCC3=CC(=CC=C3)OC>>[H:20][O:10]C12CCC(=O)C1(CCC(=O)C2CCC3=CC(=CC=C3)OC)C.CC[O-:21] 10=20;20,21=21
[H:20][O:21]P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC(C)C(=O)C4CCCC5=C(C4=O)C=CC=C5.[OH-:10]>>[H:20][OH:10].CC(C(=O)C1CCCC2=C(C1=O)C=CC=C2)OP(C3=CC=CC=C3)(C4=CC=CC=C4)(C5=CC=CC=C5)[O-:21] 10=20;20,21=21
[H:20][OH2+:21].CN1C(=O)NC(C(C1(C2=CC=CC=C2)[OH:10])C(=O)OC)C3=CC=CC=C3>>[H:20][OH+:10]C1(C(C(NC(=O)N1C)C2=CC=CC=C2)C(=O)OC)C3=CC=CC=C3.[OH2:21] 10=20;20,21=21
CC(C)(C[NH2:10])O.C1=CC2=C(C=C1)N=C([C:21](=[C:20]2Cl)[N+:22](=[O:23])[O-])Cl>>CC(C)(C[NH2+:10][C:20]1(C2=C(C=CC=C2)N=C([C:21]1=[N+:22]([O-:23])[O-])Cl)Cl)O 10=20;22,23=23;20,21=21,22
[H:20][C:21]([C:22](=[O:23])C(C)(Br)Br)(Br)Br.[OH-:10]>>[H:20][OH:10].CC([C:22](=[C:21](Br)Br)[O-:23])(Br)Br 10=20;22,23=23;20,21=21,22
[H:20][O:21]CC.CC1(CCCC(=O)C1)[O-:10]>>[H:20][O:10]C1(CCCC(=O)C1)C.CC[O-:21] 10=20;20,21=21
C[P:10](Cl)Cl.[Mg+:20]Cl>>C[P+:10]([Mg:20]Cl)(Cl)Cl 10=20,
CCO[C:20](=[O:21])C.[OH:10][Na]>>CCO[C:20](C)([O-:21])[OH+:10][Na] 10=20;20,21=21
CC[OH+:11][CH:10]1CCCCO1>>CC[OH:11].C1CCO[CH+:10]C1 10,11=11
CC[C:22](=[O:23])[CH:21]=[CH:20]C.O[O-:10]>>CC[C:22](=[CH:21][CH:20](C)[O:10]O)[O-:23] 10=20;22,23=23;20,21=21,22
CO[C:13]1=[C:12]([CH:11]=[CH:10]C=C1Br)Br.[Br:20][Br:21]>>CO[C+:13]1C(=C[CH:10]([CH:11]=[C:12]1Br)[Br:20])Br.[Br-:21] 10,11=10,20;20,21=21;12,13=11,12
CC[OH:10].C1[C:20](=[NH+:21]1)C2=CC=CN=C2.CC1=CC=C(C=C1)S(=O)(=O)[O-].[Cl-]>>CC[OH+:10][C:20]1(C[NH:21]1)C2=CC=CN=C2.CC1=CC=C(C=C1)S(=O)(=O)[O-].[Cl-] 10=20;20,21=21
CC1=CC=C(C=C1)[C:20]2(CC=C([O:10]2)C3=CC=CC=C3)[OH2+:21].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC1=CC=C(C=C1)[C:20]2=[O+:10]C(=CC2)C3=CC=CC=C3.[OH2:21].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][O:21]C(=O)C.CCOC(=O)C=CC1=C(C(=CC=C1)F)C(O)[O:10]CCCO.O>>[H:20][O+:10](CCCO)C(C1=C(C=CC=C1F)C=CC(=O)OCC)O.CC(=O)[O-:21].O 10=20;20,21=21
C[C:20]1(C([Br+:21]1)Br)Br.[Br-:10]>>C[C:20](C(Br)[Br:21])(Br)[Br:10] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC1C([O:10]1)CCCCO>>[H:20][O+:10]1C(C1CCCCO)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C.CC1=CC(=[O:10])CCC1(C)CCC#CC[Si](C)(C)C>>[H:20][O+:10]=C1CCC(C(=C1)C)(C)CCC#CC[Si](C)(C)C.CS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][OH+:21]C(C)(CC)C(C)O.[OH2:10]>>[H:20][OH2+:10].CCC(C)(C(C)O)[OH:21] 10=20;20,21=21
[B-]([O:10]C)(F)(F)F.C[C:20](=[N+:21](C)C)C>>[B-]([O+:10](C)[C:20](C)(C)[N:21](C)C)(F)(F)F 10=20;20,21=21
CC[OH:10].C=C[C:20](=[O:21])Cl>>CC[OH+:10][C:20](C=C)([O-:21])Cl 10=20;20,21=21
CC12CCC3C(C1CCC2[C:20](C)([OH2+:21])[O:10]CCO)CC=C4C3(CCC(C4)O)C.C1=CC=NC=C1.[Cl-]>>C[C:20](=[O+:10]CCO)C1CCC2C1(CCC3C2CC=C4C3(CCC(C4)O)C)C.[OH2:21].C1=CC=NC=C1.[Cl-] 10=20;20,21=21
[H:20][NH+:21](CC)C(C)(C)O.CC[NH2:10]>>[H:20][NH2+:10]CC.CC[NH:21]C(C)(C)O 10=20;20,21=21
CC(=[O:10])O.C1CC2CC1C[CH+:20]2.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC(=[O+:10][CH:20]1CC2CCC1C2)O.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20,
CCC1(C2=C(COC1=O)C(=O)N3CC[C:20](C3=C2)([OH:10])[OH+:21]CCO)O.C1CCOC1.C(=O)(C(F)(F)F)[O-].O>>C(CO)[OH:21].CCC1(C2=C(COC1=O)C(=O)N3CC[C:20](=[OH+:10])C3=C2)O.C1CCOC1.C(=O)(C(F)(F)F)[O-].O 10=20;20,21=21
C[NH:10]C.CO[C:20](=[O:21])Cl>>C[NH+:10](C)[C:20]([O-:21])(OC)Cl 10=20;20,21=21
